US09079866B2
Step D: tert-Butyl 3-(3-(4-(5-aminopyrazin-2-yl)-3-fluorophenyl)pyridin-2-ylsulfonyl)pyrrolidine-1-carboxylate
A mixture of tert-butyl 3-(3-bromopyridin-2-ylsulfonyl)pyrrolidine-1-carboxylate (205 mg, 60% purity, 0.320 mmol), 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine (100 mg, 0.320 mmol), Pd(dppf)Cl2.CH2Cl2 (23 mg, 0.030 mmol), and Na2CO3 (101 mg, 0.950 mmol) in DMF (6 mL) was stirred at 100° C. for 16 h under N2 before cooling to rt and concentrating it to dryness. The resultant residue was subjected to FCC followed by HPLC purification to give the title compound (150 mg, 99%). MS (ESI): mass calcd. For C24H26FN5O4S 499.17; m/z found, 521.9 [M+Na]+.

reactant | tert-butyl 3-(3-bromopyridin-2-ylsulfonyl)pyrrolidine-1-carboxylate | 0.320 mmol, 205 mg | BrC=1C(=NC=CC1)S(=O)(=O)C1CN(CC1)C(=O)OC(C)(C)C | C14H19BrN2O4S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | 0.320 mmol, 100 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | CH2Cl2 | 0.030 mmol, 23 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 0.950 mmol, 101 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 3-(3-(4-(5-aminopyrazin-2-yl)-3-fluorophenyl)pyridin-2-ylsulfonyl)pyrrolidine-1-carboxylate | 150 mg, 99% | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=NC=CC1)S(=O)(=O)C1CN(CC1)C(=O)OC(C)(C)C)F | C24H26FN5O4S
